US04549988
1-[4-Chloro-2-(2-fluorobenzoyl)phenyl]-3-phthalimidopropane
A mixture of 9.6 g (23 mmole) of 1-[4-chloro-2-(2-fluorobenzoyl)phenyl]-3-phthalimidopropyne and 1 teaspoonful of Raney nickel in 70 ml of tetrahydrofuran was hydrogenated at room temperature and atmospheric pressure. When 1.05 L of hydrogen was absorbed the catalyst was separated by filtration and the filtrate was concentrated at reduced pressure to dryness. The residue crystallized from a mixture of ether and petroleum ether to give the product as a tan solid, mp 98°-99° C.

reactant | 1-[4-chloro-2-(2-fluorobenzoyl)phenyl]-3-phthalimidopropyne | 23 mmole, 9.6 g | ClC1=CC(=C(C=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=C(C=CC=C2)F)=O | C24H13ClFNO3
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-[4-Chloro-2-(2-fluorobenzoyl)phenyl]-3-phthalimidopropane | ClC1=CC(=C(C=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=C(C=CC=C2)F)=O | C24H17ClFNO3
